US04182769
1-Benzyloxymethyl-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole
A mixture of 1.92 g (5 mmole) of 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole, 1.6 g (10 mmole) of benzyl chloromethyl ether, 2.8 g (20 mmole) of potassium carbonate in 20 ml DMF was stirred at RT for six hours, then poured into ice water. The aqueous mixture was extracted three times with ether. The ether extracts were backwashed three times with water, then dried and concentrated. The residue was chromatographed on 150 g SilicAR CC-7, eluting with toluene to give, after recrystallization from hexane, 2.5 g (100%) of white product, mp 97.5°-98.5°.

reactant | 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole | 5 mmole, 1.92 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)S(=O)(=O)C(C(F)F)(F)F | C17H12F4N2O2S
reactant | benzyl chloromethyl ether | 10 mmole, 1.6 g | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | potassium carbonate | 20 mmole, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Benzyloxymethyl-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole | C(C1=CC=CC=C1)OCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C(C(F)F)(F)F | C25H20F4N2O3S
